US06596772B1
To a suspension of 2,6-Naphthalenedicarboxylic acid monobenzyl ester (2.9 g, 9.5 mmol) in anhydrous THF (50 ml) under N2 at 0° C., was added 1.0M BH3.THF (14.3 ml, 14.3 mmol). The mixture was stirred at room temperature for overnight, then partitioned between brine (200 ml) and EtOAc (3×75), dried over Na2SO4, and taken to dryness to yield a white solid (6-Hydroxymethyl-2-naphthalenecarboxylic acid benzyl ester, 2.6 g). 1H NMR (360 MHz, DMSO-d6): δ 8.635 (s, 1H, Ar—H), 8.110 (d, J=8.6 Hz, 1H, Ar—H), 8.004 (m, 2H, Ar—H), 7.919 (s, 1H, Ar—H), 7.574-7.366 (m, 6H, Ar—H), 5.425-5.393 (m, 2H, —COOCH2—), 4.71-4.696(d, J=5.2 Hz, 2H, HO—CH2—), MS m/e 291 [M+−1].

reactant | 2,6-Naphthalenedicarboxylic acid monobenzyl ester | 9.5 mmol, 2.9 g | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)O | C19H14O4
reactant | BH3.THF | 14.3 mmol, 1.0M, 14.3 ml | B.C1CCOC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 6-Hydroxymethyl-2-naphthalenecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC=C(C=C2C=C1)CO | C19H16O3
